US07820654B2
Synthesis of 4-(2,6-diphenyl-pyrimidin-4-ylamino)-N-methyl-benzenesulfonamide
To a solution of 4-chloro-2,6-diphenyl-pyrimidine (0.2 g, 0.75 mmol) in n-BuOH (7 mL) was added 4-amino-N-methyl-benzenesulfonamide (0.146 g, 0.78 mmol) and the mixture was stirred at reflux temperature for 72 hours under nitrogen. The mixture was then cooled to temperature in the range of 20-40° C., the solid precipitated was filtered off and dried to give the title compound (0.13 g, 43% yield).

reactant | 4-chloro-2,6-diphenyl-pyrimidine | 0.75 mmol, 0.2 g | ClC1=NC(=NC(=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H11ClN2
reactant | 4-amino-N-methyl-benzenesulfonamide | 0.78 mmol, 0.146 g | NC1=CC=C(C=C1)S(=O)(=O)NC | C7H10N2O2S
solvent | n-BuOH | 7 mL | CCCCO | C4H10O
product | 4-(2,6-diphenyl-pyrimidin-4-ylamino)-N-methyl-benzenesulfonamide | 0.13 g, 43% yield | C1(=CC=CC=C1)C1=NC(=CC(=N1)NC1=CC=C(C=C1)S(=O)(=O)NC)C1=CC=CC=C1 | C23H20N4O2S
